US06180622B2
Trifluoroacetic acid (4 ml) is added to 1.26 g of (3R,5S)-1-allyloxycarbonyl-5-[2-(t-butoxyaminomethyl)thiazol-4-yl]-3-methanesulfonyloxypyrrolidine, and the mixture is stirred at room temperature for one hr. The reaction mixture is concentrated under reduced pressure. A saturated aqueous sodium hydrogencarbonate solution (30 ml) and 20 ml of dichloromethane are added to the residue, a mixed acid anhydride prepared from 1.0 ml of formic acid and 0.75 ml of acetic acid are added dropwise thereto, and the mixture is stirred at room temperature for one hr. The reaction mixture is subjected to separation, and the organic layer is washed with saturated saline and dried over anhydrous magnesium sulfate. The solvent is removed by evaporation under reduced pressure. The residue is purified by column chromatography on silica gel (methanol:ethyl acetate=5:95) to give 0.81 g of (3R,5S)-1-allyloxycarbonyl-5-(2-formylaminomethylthiazol-4-yl)-3-methanesulfonyloxypyrrolidine.

reactant | Trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (3R,5S)-1-allyloxycarbonyl-5-[2-(t-butoxyaminomethyl)thiazol-4-yl]-3-methanesulfonyloxypyrrolidine | 1.26 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C=1N=C(SC1)CNOC(C)(C)C)OS(=O)(=O)C | C17H27N3O6S2
product | (3R,5S)-1-allyloxycarbonyl-5-(2-formylaminomethylthiazol-4-yl)-3-methanesulfonyloxypyrrolidine | 0.81 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C=1N=C(SC1)CNC=O)OS(=O)(=O)C | C14H19N3O6S2
